US08349893B2
A solution of (R)-3-[8-(3,4-difluoro-benzyloxy)-octanoylamino]-4-dimethylamino-butyric acid benzyl ester (125 mg, 0.25 mmol) was hydrogenated under atmospheric pressure in the presence of palladium (10% on activated charcoal, 30 mg). After 30 min, the catalyst was filtered off and the filtrate concentrated and dried to afford (R)-3-[8-(3,4-difluoro-benzyloxy)-octanoylamino]-4-dimethylamino-butyric acid (96 mg, 89%). Light yellow oil, m/e=413.2 ([M−H]−).

reactant | (R)-3-[8-(3,4-difluoro-benzyloxy)-octanoylamino]-4-dimethylamino-butyric acid benzyl ester | 0.25 mmol, 125 mg | C(C1=CC=CC=C1)OC(C[C@H](CN(C)C)NC(CCCCCCCOCC1=CC(=C(C=C1)F)F)=O)=O | C28H38F2N2O4
catalyst | palladium | 30 mg | [Pd] | Pd
product | (R)-3-[8-(3,4-difluoro-benzyloxy)-octanoylamino]-4-dimethylamino-butyric acid | 96 mg, 89% | FC=1C=C(COCCCCCCCC(=O)N[C@H](CC(=O)O)CN(C)C)C=CC1F | C21H32F2N2O4
